US07345067B2
A solution of crude (4-{tert-butoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2-methyl-phenoxy)-acetic acid methyl ester (2.1 g containing 1.83 g, 3.32 mmol) in CH2Cl2 (33 ml) was treated at 0° C. with TFA (12.7 ml) and stirred at RT for 45 min. The reaction was evaporated, treated with chilled aqueous saturated NaHCO3 solution/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. Purification by flash chromatography with a gradient of n-heptane:EtOAc 95:5 to 4:1 yielded 0.34 g of (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid methyl ester as an light yellow solid, MS: 451.3 (MH+).

reactant | (4-{tert-butoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2-methyl-phenoxy)-acetic acid methyl ester | 3.32 mmol, 2.1 g | COC(COC1=C(C=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C(=O)OC(C)(C)C)C)=O | C27H29F3N2O5S
reactant | TFA | 12.7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 33 ml | C(Cl)Cl | CH2Cl2
product | (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid methyl ester | 0.34 g | COC(COC1=C(C=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C22H21F3N2O3S
